US07282512B2
To a solution of 0.150 g (0.289 mmol) of (1-{[(2-chloro-4-pyrimidinyl)oxy]methyl}cyclobutyl)methyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate in 2.0 mL of dichloromethane was added 0.031 g (0.375 mmol) of sodium bicarbonate followed by the addition of 0.159 g (0.375 mmol) of Dess-Martin periodinane. The reaction was stirred for 15 min and then poured directly onto a column of silica gel eluting with ethyl acetate:hexane (1:1) to afford 0.1 g (67%) of (1-{[(2-chloro-4-pyrimidinyl)oxy]methyl}cyclobutyl)methyl (1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 8.31 (m, 6 Hz, 1H), 7.41-7.29 (m, 5H), 7.13 (d, J=7 Hz, 1H), 6.69 (d, J=6 Hz, 1H), 5.29 (d, J=7 Hz, 1H), 5.18-5.08 (m, 2H), 4.41 (s, 2H), 4.20 (s, 2H), 2.07-1.71 (m, 7H), 1.56 (d, J=7 Hz, 3H), 1.26-1.32 (m, 5H), 0.88 (t, J=6 Hz, 3H). LC-MS m/z 517 (M+H).

reactant | (1-{[(2-chloro-4-pyrimidinyl)oxy]methyl}cyclobutyl)methyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | 0.289 mmol, 0.150 g | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(OCC1(CCC1)COC1=NC(=NC=C1)Cl)=O | C26H35ClN4O5
reactant | sodium bicarbonate | 0.375 mmol, 0.031 g | C([O-])(O)=O.[Na+]
reactant | Dess-Martin periodinane | 0.375 mmol, 0.159 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | (1-{[(2-chloro-4-pyrimidinyl)oxy]methyl}cyclobutyl)methyl (1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate | 0.1 g, 67% | O=C(C(=O)[C@H](CCCC)NC(OCC1(CCC1)COC1=NC(=NC=C1)Cl)=O)N[C@H](C)C1=CC=CC=C1 | C26H33ClN4O5
